US08003785B2
A mixture of 0.20 g (0.58 mmole) of 2-chloro-9-cyclopentyl-7,7-difluoro-5-propyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-144) and 0.12 g (0.87 mmole) of 4-aminobenzoic acid in a 1:4 mixture of 10 mL of ethanol and 1M hydrochloric acid was heated at 100 degrees for 18 hours. After cooling, the precipitate was collected by filtration, washed with water and dried to give 0.21 g of 4-(9-cyclopentyl-7,7-difluoro-6-oxo-5-propyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid (I-144).

reactant | 2-chloro-9-cyclopentyl-7,7-difluoro-5-propyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.58 mmole, 0.20 g | ClC=1N=CC2=C(N(CC(C(N2CCC)=O)(F)F)C2CCCC2)N1 | C15H19ClF2N4O
reactant | 4-aminobenzoic acid | 0.87 mmole, 0.12 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-(9-cyclopentyl-7,7-difluoro-6-oxo-5-propyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid | 0.21 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)CCC)C=NC(=N2)NC2=CC=C(C(=O)O)C=C2 | C22H25F2N5O3
